US05753679
0.1025 g (0.00033 mol) of 1-benzyl-piperidin-4-yl 4-amino-benzoate was dissolved in 5 ml of acetonitrile and treated with 0.4 ml (0.0053 mol) of formaldehyde (37%) and 0.113 g (0.001534 mol) of NaBH3CN. The pH was adjusted to 6 with glacial acetic acid and the reaction mixture was stirred at 50° for 1 hr. Subsequently, the mixture was diluted with 25 ml of ether, washed with saturated bicarbonate solution and saturated sodium chloride solution and the org. phase was dried over magnesium sulfate. After removing the solvent the residue was chromatographed over silica gel with dichloromethane/methanol (19:1). 0.078 g (70%) of 1-benzyl-piperidin-4-yl 4-dimethylamino-benzoate was obtained as white crystals; m.p. 103°.

reactant | 1-benzyl-piperidin-4-yl 4-amino-benzoate | 0.00033 mol, 0.1025 g | NC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1 | C19H22N2O2
reactant | formaldehyde | 0.0053 mol, 0.4 ml | C=O | CH2O
reactant | NaBH3CN | 0.001534 mol, 0.113 g | [BH3-]C#N.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ether | 25 ml | CCOCC | C4H10O
product | 1-benzyl-piperidin-4-yl 4-dimethylamino-benzoate | 0.078 g, 70% | CN(C1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)C | C21H26N2O2
